US04027027
A solution of 4.5 g of 1-amino-3-(2-methyl-phenyloxy)-2-propanol and 4.85 g of 3-(2-oxo-propyloxy)-2-pyridinecarboxylic acid amide in 100 ml of ethanol is heated under reflux for 3 hours. After cooling to room temperature, 1.9 g of sodium borohydride are added whilst stirring; the temperature gradually rises to 45° C. After the reaction has subsided, the mixture is stirred for a further hour. The reaction mixture is then acidified with 2 N hydrochloric acid whilst cooling, and is extracted with 20 ml of ethyl acetate. The aqueous phase is rendered alkaline with a concentrated aqueous sodium hydroxide solution and is extracted with three times 50 ml of ethyl acetate. After drying over sodium sulphate and evaporation of the organic solution, oily, crude 1-[1-methyl-2-(2-carbamoyl-3-pyridyloxy)-ethyl-amino]-3-(2-methyl-phenyloxy)-2-propanol is obtained, which forms a neutral fumaric acid salt, melting point 145°-161° C. after recrystallisation from a mixture of methanol and ethyl methyl ketone.

reactant | 1-amino-3-(2-methyl-phenyloxy)-2-propanol | 4.5 g | NCC(COC1=C(C=CC=C1)C)O | C10H15NO2
reactant | 3-(2-oxo-propyloxy)-2-pyridinecarboxylic acid amide | 4.85 g | O=C(COC=1C(=NC=CC1)C(=O)N)C | C9H10N2O3
reactant | sodium borohydride | 1.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[1-methyl-2-(2-carbamoyl-3-pyridyloxy)-ethyl-amino]-3-(2-methyl-phenyloxy)-2-propanol | CC(COC=1C(=NC=CC1)C(N)=O)NCC(COC1=C(C=CC=C1)C)O | C19H25N3O4
